US07067517B2
Methyl-phenyl-carbamic acid pyridin-2-yl ester
The title product was prepared from 2-hydroxypyridine and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC. (57%, colorless oil). HPLC-MS: m/z=229.1 (M+23); Rt: 2.80 min.

reactant | 2-hydroxypyridine | OC1=NC=CC=C1 | C5H5NO
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid pyridin-2-yl ester | N1=C(C=CC=C1)OC(N(C1=CC=CC=C1)C)=O | C13H12N2O2
